### PR TITLE
Remove unused have

### PR DESCRIPTION
**Pull request by ajirving**
Removes a number of unused have statements in MediumPNT.lean.

### CODE REVIEW

**Comment by ajirving** [comment]
This now also contains significant shortening of poissen_kernel_integrable and integrable_eval using existing Mathlib functions.

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 1]
```diff
@@ -2936,151 +2564,17 @@ theorem integral_evaluation (x : ℝ) (T : ℝ)
...
-
-
+  calc
+    _ ≤ ∫ (t : ℝ) in Iic (-T), (t^2)⁻¹  := by
+      apply MeasureTheory.integral_mono_of_nonneg _ T3 T1
+      filter_upwards [] with x
+      simp
+    _ = _ := by
+      rw [← integral_comp_neg_Ioi]
+      conv => lhs; arg 2; ext x; rw [show ((-x) ^ 2)⁻¹ = x ^ (-2 : ℝ) by simp; rfl]
```
Comment (Ruben-VandeVelde) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
      conv => lhs; arg 2; ext x; rw [show ((-x) ^ 2)⁻¹ = x ^ (-2 : ℝ) by simp [zpow_ofNat]]
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
This looks great! I'd actually picked up on a few of those today, but you got a lot more.

File: PrimeNumberTheoremAnd/MediumPNT.lean (hunk 1 above)
Comment (AlexKontorovich) [reply PrimeNumberTheoremAnd/MediumPNT.lean]: LGTM
